US07608629B2
Preparation 95. 4-[6-(2-Chloro-4-fluoro-benzoylamino)-pyridin-2-yloxy]-2-methyl-piperidine-1-carboxylic acid tert-butyl ester cis isomer 1
Combine 4-(6-amino-pyridin-2-yloxy)-2-methyl-piperidine-1-carboxylic acid tert-butyl ester cis isomer 1 (preparation 63, 0.025 g, 0.08 mmol), 2-chloro-4-fluoro-benzoyl chloride (0.10 g, 0.52 mmol), triethylamine (0.10 mL, 0.69 mmol) and 1,4-dioxane (10 mL), stir and heat to reflux. After 3 hr., cool to ambient temperature, dilute with methanol (10 mL) and load on an SCX column (10 g). Wash with methanol (2×25 mL). Elute product with 2M ammonia/methanol (2×25 mL). Eluent concentrated to give crude title compound. Mass spectrum (electrospray): m/z=364.1 (M+1-100) loss of t-BOC from parent. Use without further characterization in next step.

reactant | 4-(6-amino-pyridin-2-yloxy)-2-methyl-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C(CC(CC1)OC1=NC(=CC=C1)N)C | C16H25N3O3
reactant | 2-chloro-4-fluoro-benzoyl chloride | 0.52 mmol, 0.10 g | ClC1=C(C(=O)Cl)C=CC(=C1)F | C7H3Cl2FO
reactant | triethylamine | 0.69 mmol, 0.10 mL | C(C)N(CC)CC | C6H15N
reactant | 1,4-dioxane | 10 mL | O1CCOCC1 | C4H8O2
solvent | methanol | 10 mL | CO | CH4O
product | 4-[6-(2-Chloro-4-fluoro-benzoylamino)-pyridin-2-yloxy]-2-methyl-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C(CC(CC1)OC1=NC(=CC=C1)NC(C1=C(C=C(C=C1)F)Cl)=O)C | C23H27ClFN3O4
